US08426447B2
A mixture of crude 5-bromo-2-(2-fluoropyridin-3-yloxy)benzoic acid (8.00 g, 25.6 mmol), diethylamine (6.63 mL, 64.1 mmol) and TBTU (8.23 g, 25.6 mmol) in 8 mL of DMF was stirred overnight. The reaction was quenched with Sat. NaHCO3, extracted with EA/H=2:1, washed with brine, dried over Na2SO4, filtered and evaporated to dryness. CC (DCM to DCM/EA 100:5 to 100:10 to 100:20 to 3:1) gave 5-bromo-N,N-diethyl-2-(2-fluoropyridin-3-yloxy)benzamide as a yellow solid.

reactant | 5-bromo-2-(2-fluoropyridin-3-yloxy)benzoic acid | 25.6 mmol, 8.00 g | BrC=1C=CC(=C(C(=O)O)C1)OC=1C(=NC=CC1)F | C12H7BrFNO3
reactant | diethylamine | 64.1 mmol, 6.63 mL | C(C)NCC | C4H11N
reactant | TBTU | 25.6 mmol, 8.23 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 5-bromo-N,N-diethyl-2-(2-fluoropyridin-3-yloxy)benzamide | BrC=1C=CC(=C(C(=O)N(CC)CC)C1)OC=1C(=NC=CC1)F | C16H16BrFN2O2
